US08492378B2
7-[5-[(3-fluorobenzyl)thio]-1,3,4-oxadiazol-2-yl]-1,2,4-triazolo[1,5-a]pyridine
In the same manner as in Example 1 and using 5-(1,2,4-triazolo[1,5-a]pyridin-7-yl)-1,3,4-oxadiazole-2-thiol triethylamine salt instead of 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol and 3-fluorobenzyl chloride instead of 3-(trifluoromethyl)benzyl chloride, the title compound (yield 27%) was obtained as colorless crystals.

reactant | 5-(1,2,4-triazolo[1,5-a]pyridin-7-yl)-1,3,4-oxadiazole-2-thiol triethylamine salt | C(C)N(CC)CC.N=1C=NN2C1C=C(C=C2)C2=NN=C(O2)S
reactant | 3-fluorobenzyl chloride | FC=1C=C(CCl)C=CC1 | C7H6ClF
product | 7-[5-[(3-fluorobenzyl)thio]-1,3,4-oxadiazol-2-yl]-1,2,4-triazolo[1,5-a]pyridine | yield 27% | FC=1C=C(CSC2=NN=C(O2)C2=CC=3N(C=C2)N=CN3)C=CC1 | C15H10FN5OS
